US04786652
A solution of 1,4-naphthoquinone (7.91 g), propanoic acid (3.70 g) and silver nitrate (1.53 g) in a mixture of acetonitrile (11.4 mL), sulfolane (34.1 mL) and water (79.5 mL) was heated at 60°-65° C. for 2 hours. A solution of ammonium persulfate (13.7 g) in water (25 mL) was then added dropwise. The mixture was cooled in ice water and extracted with ether. The organic layer was washed with saturated sodium bicarbonate, water and brine, then dried, filtered and evaporated. Chromatography over silica gel afforded 2-ethyl-1,4-naphthoquinone, m.p. 87°-88° C.

reactant | 1,4-naphthoquinone | 7.91 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | propanoic acid | 3.70 g | C(CC)(=O)O | C3H6O2
reactant | sulfolane | 34.1 mL | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | ammonium persulfate | 13.7 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | acetonitrile | 11.4 mL | C(C)#N | C2H3N
solvent | water | 25 mL | O | H2O
catalyst | silver nitrate | 1.53 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 79.5 mL | O | H2O
product | 2-ethyl-1,4-naphthoquinone | C(C)C=1C(C2=CC=CC=C2C(C1)=O)=O | C12H10O2
